US05270465
7-Hydroxy-2-hydroxymethyl-4(3H)-pteridinone
A mixture of 4.0 g (0.0169 mole) of 2-acetoxymethyl-7-hydroxy-4(3H)-pteridinone, 1.2 g (0.0214 mole) of potassium hydroxide and 5 ml of water in 80 ml of ethanol is refluxed for 4 hours. After cooling, the reaction mixture is filtered. The solid thereby isolated is washed with 30 ml of ethanol and taken up in 160 ml of water. The cloudy solution obtained is clarified by filtration and acidified with acetic acid to pH 3.6. The precipitate formed is isolated by filtration. It is purified by washing with ether and recrystallization from a mixture of ethanol and N,N-dimethylformamide. Yld: 2.0 g (61%), m.p. >300° C.

reactant | 2-acetoxymethyl-7-hydroxy-4(3H)-pteridinone | 0.0169 mole, 4.0 g | C(C)(=O)OCC1=NC2=NC(=CN=C2C(N1)=O)O | C9H8N4O4
reactant | potassium hydroxide | 0.0214 mole, 1.2 g | [OH-].[K+]
reactant | water | 5 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 7-Hydroxy-2-hydroxymethyl-4(3H)-pteridinone | OC1=CN=C2C(NC(=NC2=N1)CO)=O | C7H6N4O3
